US06133260
2nd method: A homogenized mixture of (1R,6R)-2-oxa-5,8-diazabicyclo[4.3.0]nonane dihydrobromide and 620 mg (11 mmol) of powdered potassium hydroxide is distilled dry in a bulb tube apparatus at 0.2 mbar and increasing oven temperature to 250° C. 490 mg (76.6% of theory) of (1R,6R)-2-oxa-5,8-diazabicyclo[4.3.0]nonane are obtained as a viscous oil, which slowly crystallizes.

reactant | (1R,6R)-2-oxa-5,8-diazabicyclo[4.3.0]nonane dihydrobromide | Br.Br.[C@@H]12OCCN[C@@H]2CNC1
reactant | potassium hydroxide | 11 mmol, 620 mg | [OH-].[K+]
product | (1R,6R)-2-oxa-5,8-diazabicyclo[4.3.0]nonane | 490 mg, 76.6% | [C@@H]12OCCN[C@@H]2CNC1 | C6H12N2O
